US04081451
Heat a mixture consisting of 24.4 g of 2-hydroxy nicotinic acid and 42 ml. of phosphorous oxychloride to 100°-108° C and hold for 1 hour. Add 36.4 g of phosphorous pentachloride and heat the resulting mixture at reflux for another hour. Remove the excess phosphorous oxychloride in vacuo and pour the viscous residue on ice with stirring. Age the resulting slurry at room temperature for about 12 hours. The slurry is filtered, washed and dried to yield 2-chloro-nicotinic acid, m.p. 190° C.

reactant | 2-hydroxy nicotinic acid | 24.4 g | OC1=C(C(=O)O)C=CC=N1 | C6H5NO3
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phosphorous pentachloride | 36.4 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | 2-chloro-nicotinic acid | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
